US04288385
Preparation of {5-[(1-Ethylpropyl)amino]-4,6-dinitro-o-cumenyl}acetic acid
A mixture of concentrated sulfuric acid (4.25 g) and water (17.3 g) is cooled to about 12° C., and a solution of {5-[(1-ethylpropyl)amino]-4,6-dinitro-o-cumenyl}acetaldehyde (6.5 g; 0.0192 mol) in methylene chloride (40 ml) is added slowly while the temperature of the mixture is maintained at about 12° C. Next, potassium permanganate (3.0 g; 0.0192 mol) is added to small portions. After stirring overnight at room temperature, tlc indicates the presence of some starting material. The mixture is cooled to 15° C., and a second portion of potassium permanganate (3.0 g; 0.0192 mol) added. When tlc indicates the absence of starting material, sodium thiosulfate is added until a clear red solution is obtained. Methylene chloride is added and the layers are separated. The methylene chloride layer is washed, dried over magnesium sulfate, and evaporated to leave a red oil (6.6 g; 97%) which slowly solidifies to a yellow solid. This solid is purified by column chromatography using 90/10 toluene/ethyl acetate to elute the product, melting point 116°-118° C. An analytical sample, recrystallized from pentane, melts at 117.5°-118.5° C.

reactant | sulfuric acid | 4.25 g | S(O)(O)(=O)=O | H2O4S
reactant | {5-[(1-ethylpropyl)amino]-4,6-dinitro-o-cumenyl}acetaldehyde | 0.0192 mol, 6.5 g | C(C)C(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C(C)C)CC=O)[N+](=O)[O-] | C16H23N3O5
reactant | potassium permanganate | 0.0192 mol, 3.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 0.0192 mol, 3.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 17.3 g | O | H2O
product | {5-[(1-Ethylpropyl)amino]-4,6-dinitro-o-cumenyl}acetic acid | C(C)C(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C(C)C)CC(=O)O)[N+](=O)[O-] | C16H23N3O6
